US07153889B2
3-Bromo-7-(2-ethoxy-vinyl)-[1,5]naphthyridine
A solution of 3,7-dibromo-1,5-naphthyridine (0.5 g, 1.74 mmol), tributyl-2-ethoxy-vinylstannane (1.91 mmol, 0.69 g), LiCl (8.7 mmol, 0.37 g) and 0.085 g of PdCl2(PPh3)2 in 50 mL of toluene was heated at 95° C. for 16 hr. After cooling off, 20 mL of a 2 M solution of KF was added to the mixture and stirring was continued for 0.5 hr. The mixture was diluted with 100 mL of CH2Cl2 and washed successively with a saturated solution of sodium bicarbonate, brine and water. The organic layer was dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue was chromatographed using 5% MeOH in CH2Cl2 to give the desired material in 55% yield. 1H NMR (CDCl3, 300 MHz) δ 1.40 (m, 3H), 4.05 (m, 2H), 5.85 (s, 1H), 7.25 (s, 1H), 8.15 (m, 1H), 8.55 (m, 1H), 8.85 (m, 2H). MS (ESI) [M+H]+ at 280.

reactant | 3,7-dibromo-1,5-naphthyridine | 1.74 mmol, 0.5 g | BrC=1C=NC2=CC(=CN=C2C1)Br | C8H4Br2N2
reactant | tributyl-2-ethoxy-vinylstannane | 1.91 mmol, 0.69 g | C(CCC)[Sn](C=COCC)(CCCC)CCCC
reactant | LiCl | 8.7 mmol, 0.37 g | [Li+].[Cl-]
reactant | KF | [F-].[K+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.085 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Bromo-7-(2-ethoxy-vinyl)-[1,5]naphthyridine | 55% yield | BrC=1C=NC2=CC(=CN=C2C1)C=COCC | C12H11BrN2O
